US04640915
A mixture of 5% palladium on activated charcoal (50 ml), dioxane (3.5 ml) and 1/30M sodium phosphate buffer solution (pH 7.0, 1.5 ml) was shaken for an hour under hydrogen atmosphere (40 psi) at ambient temperature. To this mixture was added a solution of 4-nitrobenzyl(5R,6R)-3-(4-pyridylthio)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (43 mg) in a mixture of dioxane (3.5 ml) and 1/30M sodium phosphate buffer solution (pH 7.0, 1.5 ml) at 0° C., and the resultant mixture was shaken under hydrogen atmosphere (40 psi) for 100 minutes, during which time the reaction temperature rose to ambient temperature. After addition of 1% aqueous sodium bicarbonate (0.57 ml) at 0° C., the mixture was filtered through cellulose powder. The filter-cake was washed with water (3×10 ml). The combined filtrates were concentrated to half of the original volume. The concentrate was washed with ethyl acetate (3×20 ml) and evaporated in vacuo. The residue was dissolve in water (60 ml) containing sodium chloride (1.75 g) and then chromatographed on nonionic adsorption resin "Diaion HP-20" (Trade Mark, maker: Mitsubishi Chemical Industries Ltd. (1.5×20 cm) eluting with water (100 ml) and a mixture of water and acetone (10:0 to 7:3, 200 ml). The fractions, whose UV spectra showed λmax 302 nm, were collected and lyophilized to give sodium (5R,6R)-3-(4-pyridylthio)-6-(1-hydroxy-1-methylethyl)-7-oxo-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylate (13.7 mg) as white powder.

reactant | sodium phosphate | 30M, 1.5 ml, pH 7.0 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | 4-nitrobenzyl(5R,6R)-3-(4-pyridylthio)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 43 mg | N1=CC=C(C=C1)SC1=C(N2C([C@H]([C@H]2C1)C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C30H26N4O10S
reactant | sodium phosphate | 30M, 1.5 ml, pH 7.0 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | sodium bicarbonate | 0.57 ml | C([O-])(O)=O.[Na+]
catalyst | palladium on activated charcoal | 50 ml | [Pd] | Pd
solvent | dioxane | 3.5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 3.5 ml | O1CCOCC1 | C4H8O2
product | sodium (5R,6R)-3-(4-pyridylthio)-6-(1-hydroxy-1-methylethyl)-7-oxo-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylate | 13.7 mg | N1=CC=C(C=C1)SC1=C(N2C([C@H]([C@H]2C1)C(C)(C)O)=O)C(=O)[O-].[Na+] | InChI=1S/C15H16N2O4S.Na/c1-15(2,21)11-9-7-10(22-8-3-5-16-6-4-8)12(14(19)20)17(9)13(11)18;/h3-6,9,11,21H,7H2,1-2H3,(H,19,20);/q;+1/p-1/t9-,11+;/m1./s1
